US07754737B2
Ethyl 1-(2-(trimethylsilyl)ethanesulfonyl)piperidine-3-carboxylate (9.00 g, 28 mol) was dissolved in THF (200 mL) in a three-neck 500 mL flask and cooled to 0° C. A solution of LiBH4 (2.0 M in THF, 28 mL, 0.056 mol, 2.0 equiv) was added via addition funnel. The mixture was allowed to warm to rt and stir for 15 h. Significant amounts of the starting ester remained; an additional charge of the LiBH4 solution (28 mL, 0.056 mol) was added and the mixture stirred for an additional 17 h. After this period analysis by LC-MS showed consumption of the starting ester. The mixture was cooled to 0° C. and the excess LiBH4 was quenched by dropwise addition of MeOH (100 mL). The volatile materials were removed and the residue partitioned between ether (100 mL) and 1.0 M aq HCl (100 mL). The layers were separated and the aqueous layer extracted with additional ether (3×50 mL). The combined organic extracts were washed with brine and dried over Na2SO4. The clear solution was evaporated to yield (1-(2-(trimethylsilyl)ethylsulfonyl)piperidin-3-yl)methanol (5.25 g, 67%) as a white solid which was of sufficient purity to use in the next step. 1H NMR (CDCl3) δ 0.00 (s, 9H), 0.95 (m, 2H), 1.21 (m, 1H), 1.5-8 (m, 5H), 2.75-2.82 (m, 3H), 2.91 (t of d, 1H), 3.53 (m, 2H), 3.62 (d of d, 1H).

reactant | Ethyl 1-(2-(trimethylsilyl)ethanesulfonyl)piperidine-3-carboxylate | 28 mol, 9.00 g | C[Si](CCS(=O)(=O)N1CC(CCC1)C(=O)OCC)(C)C | C13H27NO4SSi
reactant | LiBH4 | 0.056 mol, 2.0 M, 28 mL, 2.0 equiv | [Li+].[BH4-]
reactant | LiBH4 | 0.056 mol, 28 mL | [Li+].[BH4-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (1-(2-(trimethylsilyl)ethylsulfonyl)piperidin-3-yl)methanol | 5.25 g, 67% | C[Si](CCS(=O)(=O)N1CC(CCC1)CO)(C)C | C11H25NO3SSi
